US07985753B2
N-(2-Benzo[1,3]dioxol-4-yl-ethyl)-acetamide
In close analogy to the procedure described above, 2-benzo[1,3]dioxol-4-yl-ethylamine is reacted with acetic anhydride to provide the title compound.

reactant | 2-benzo[1,3]dioxol-4-yl-ethylamine | O1COC2=C1C=CC=C2CCN | C9H11NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2-Benzo[1,3]dioxol-4-yl-ethyl)-acetamide | O1COC2=C1C=CC=C2CCNC(C)=O | C11H13NO3
